US07538233B2
4-(6-Chloro-2-oxo-2H-1-benzopyran-4-yl)-pentanenitrile
Is prepared via the method used for 4-(6-Chloro-2-oxo-2H-1-benzopyran-4-yl)-butyronitrile except 4-cyanobutylzinc bromide is used instead of 3-cyanopropylzinc bromide.

reactant | 4-(6-Chloro-2-oxo-2H-1-benzopyran-4-yl)-butyronitrile | ClC=1C=CC2=C(C(=CC(O2)=O)CCCC#N)C1 | C13H10ClNO2
reactant | 4-cyanobutylzinc bromide | [Br-].C(#N)CCCC[Zn+]
product | 4-(6-Chloro-2-oxo-2H-1-benzopyran-4-yl)-pentanenitrile | ClC=1C=CC2=C(C(=CC(O2)=O)C(CCC#N)C)C1 | C14H12ClNO2
